US06818644B1
d. 9-{4-[4-(6-phenyl-pyridin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide
Prepared analogously to Example 2 b from 1-(6-phenyl-pyridin-2-yl)-piperazine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide.

reactant | 1-(6-phenyl-pyridin-2-yl)-piperazine | C1(=CC=CC=C1)C1=CC=CC(=N1)N1CCNCC1 | C15H17N3
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
product | 9-{4-[4-(6-phenyl-pyridin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC(=CC=C1)C1=CC=CC=C1)(F)F | C35H35F3N4O
